US07871998B2
N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-valyl-L-serine
N-([4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-valine (6.9 mg, 11.8 μmol) was dissolved in DCM (3 ml). tert-Butyl O-(tert-butyl)-L-serinate hydrochloride (3.7 mg, 14.2 μmol) and N-methylmorpholine (5.5 μl, 50 μmol) were added. After 5 minutes, TBTU (4.6 mg, 14.3 μmol) was added and the reaction mixture was stirred overnight. The formation of the ester was confirmed. M/z: 780.57 (M−1). The mixture was extracted between DCM (5 ml) and aqueous KHSO4 (5 ml, pH of 2). The organic phase was washed with aqueous NaHCO3 (5 ml, pH of 9). The aqueous phase was extracted with DCM (2×5 ml). The combined organic phases were dried over Na2SO4, filtered and concentrated. Formic acid (1.5 ml) was added and the reaction mixture was stirred overnight. The formiate of the intermediate acid was obtained. The solvent was removed under reduced pressure, toluene (3×1 ml) was added and evaporated. The residue was dissolved in MeOH (1.5 ml) and triethylamine (90 μl, 0.65 mmol) was added and the reaction mixture was stirred for 1 hour. Sodium borohydride (4.0 mg, 0.11 mmol) was added and the reaction mixture was stirred for 1 hour. Ammonium acetate (15 mg) was added. The solvent was removed under reduced pressure and the residue was purified on preparative HPLC using a C8 column. A gradient from 20% to 50% MeCN in 0.1M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid (5.3 mg, 67%). HRMS calcd for C33H35F2N3O8S 671.2113, found 672.2192 [M+H]+.

reactant | N-([4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-valine | 11.8 μmol, 6.9 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@H](C(C)C)C(=O)O)C=C1 | C30H28F2N2O6S
reactant | tert-Butyl O-(tert-butyl)-L-serinate hydrochloride | 14.2 μmol, 3.7 mg | Cl.C(C)(C)(C)OC[C@H](N)C(=O)OC(C)(C)C
reactant | N-methylmorpholine | 50 μmol, 5.5 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 14.3 μmol, 4.6 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | triethylamine | 0.65 mmol, 90 μl | C(C)N(CC)CC | C6H15N
reactant | Sodium borohydride | 0.11 mmol, 4.0 mg | [BH4-].[Na+]
reactant | Ammonium acetate | 15 mg | C(C)(=O)[O-].[NH4+]
solvent | DCM | 3 ml | C(Cl)Cl | CH2Cl2
product | N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}-D-valyl-L-serine | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)N[C@H](C(C)C)C(=O)N[C@@H](CO)C(=O)O)C=C1 | C33H35F2N3O8S
